US06927214B1
2-Bromo-6,7-dichloro-3-trifluoromethylquinoxaline
6,7-Dichloro-3-trifluoromethyl-1H-quinoxalin-2-one (500 mg, 1.8 mmol) was dissolved in phosphorus tribromide (2.0 ml), and the solution was heated at 140° C. for 16 hours. The reaction mixture was cooled to room temperature, before it was poured out on ice (100 g) and extracted with dichloromethane. The organic phase was separated and dried with anhydrous sodium sulphate, then taken to dryness by rotary evaporation to leave a pale brown powder.

reactant | 6,7-Dichloro-3-trifluoromethyl-1H-quinoxalin-2-one | 1.8 mmol, 500 mg | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)C(F)(F)F | C9H3Cl2F3N2O
reactant | phosphorus tribromide | 2.0 ml | P(Br)(Br)Br | Br3P
product | 2-Bromo-6,7-dichloro-3-trifluoromethylquinoxaline | BrC1=NC2=CC(=C(C=C2N=C1C(F)(F)F)Cl)Cl | C9H2BrCl2F3N2
